US07674397B2
Step 1.2: 2-Methylacrylic acid (5-bromothiophen-2-yl)methoxyhexyl ester
Triethylamine (2.10 g, 20.8 mmol) is added dropwise to a solution of 6-(5-bromothiophen-2-yl)methoxyhexanol (3.10 g, 10.62 mmol) and methacryloyl chloride (1.20 g, 11.54 mmol) in DCM (30 mL) at −10° C. This mixture is allowed to warm to room temperature and stirred overnight before it is quenched by the addition water (50 mL) The organic layer is separated and the liquid phase is extracted with DCM (2×30 mL). The organic layers is combined, washed with brine (50 mL), dried (Na2SO4) and evaporated under reduced pressure. The product is purified by column chromatography on silica, eluting with petroleum ether (40-60° C.)/ethyl acetate (90:10) to afford the product as a pale yellow oil (3.27 g, 86%). NMR and MS showed the expected signals.

reactant | Triethylamine | 20.8 mmol, 2.10 g | C(C)N(CC)CC | C6H15N
reactant | 6-(5-bromothiophen-2-yl)methoxyhexanol | 10.62 mmol, 3.10 g | BrC1=CC=C(S1)COCCCCCCO | C11H17BrO2S
reactant | methacryloyl chloride | 11.54 mmol, 1.20 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Methylacrylic acid (5-bromothiophen-2-yl)methoxyhexyl ester | 3.27 g, 86% | BrC1=CC=C(S1)COCCCCCCOC(C(=C)C)=O | C15H21BrO3S
